### PR TITLE
Add sqrte

### PR DESCRIPTION
**Pull request by proux01**
##### Things done/to do

- [x] added corresponding entries in `CHANGELOG_UNRELEASED.md`
  (do not edit former entries, only append new ones, be careful:
   merge and rebase have a tendency to mess up `CHANGELOG_UNRELEASED.md`)
- [x] added corresponding documentation in the headers

##### Automatic note to reviewers

Read [this Checklist](https://github.com/math-comp/math-comp/wiki/Checklist-for-following,-reviewing-and-playing-with-a-PR#checklist-for-reviewing-a-pr) and put a milestone if possible.

### CODE REVIEW

**Comment by affeldt-aist** [comment]
Note that `sqrte` is also defined in https://github.com/math-comp/analysis/pull/790/files @hoheinzollern

File: theories/constructive_ereal.v [hunk 1]
```diff
@@ -3063,6 +3064,62 @@ End DualRealFieldType_lemmas.
...
+
+Lemma sqrteM x y : 0 <= x -> sqrte (x * y) = sqrte x * sqrte y.
+Proof.
+case: x y => [x||] [y||] //= age0.
+- by rewrite sqrtrM ?EFinM.
+- move: age0; rewrite mulry.
+  case: sgrP => [->||].
+  + by rewrite mul0e sqrte0 sqrtr0 mul0e.
+  + by rewrite -sqrtr_gt0 -lte_fin => /gt0_muley->; rewrite mul1e.
+  + by rewrite ltNge lee_fin => /negbTE->.
```
Comment (affeldt-aist) [inline theories/constructive_ereal.v:3096]:
```suggestion
- move: age0; rewrite le_eqVlt eqe => /predU1P[<-|x0].
    by rewrite mul0e sqrte0 sqrtr0 mul0e.
  by rewrite mulry gtr0_sg ?mul1e// mulry gtr0_sg ?mul1e// sqrtr_gt0.
```

File: theories/constructive_ereal.v [hunk 2]
```diff
@@ -3063,6 +3064,62 @@ End DualRealFieldType_lemmas.
...
+- move: age0; rewrite mule0 mulrNy lee_fin -sgr_ge0.
+  by case: sgrP; rewrite ?mul0e ?sqrte0// ?mul1e// ler0N1.
+- rewrite !mulyr; case: (sgrP y) => [->||].
+  + by rewrite sqrtr0 sgr0 mul0e sqrte0.
+  + by rewrite mul1e/= -sqrtr_gt0 -sgr_gt0 -lte_fin => /gt0_muley->.
+  + move/ltW/ler0_sqrtr => ->; rewrite sgr0 mul0e /mule/=.
+    by rewrite eqe oppr_eq0 (negbTE (oner_neq0 _)) lte_fin ltr0N1.
```
Comment (affeldt-aist) [inline theories/constructive_ereal.v:3103]:
```suggestion
  + by move=> y0; rewrite EFinN mulN1e/= ltr0_sqrtr// sgr0 mul0e.
```

File: theories/constructive_ereal.v [hunk 3]
```diff
@@ -3063,6 +3064,62 @@ End DualRealFieldType_lemmas.
...
+- by rewrite mulyy.
+- by rewrite mulyNy mule0.
+Qed.
+
+Lemma sqr_sqrte x : 0 <= x -> sqrte x ^+ 2 = x.
+Proof.
+move=> xge0; rewrite /expe/= -sqrteM//.
+case: x xge0 => [x||] xge0; rewrite ?mulyy ?mulNyNy//.
+by rewrite -EFinM/= sqrtr_sqr ger0_norm.
```
Comment (affeldt-aist) [inline theories/constructive_ereal.v:3112]:
```suggestion
case: x => [x||] xge0; rewrite expe2 ?mulyy//.
by rewrite -sqrteM// -EFinM/= sqrtr_sqr ger0_norm.
```

**Comment by proux01** [comment]
Sorry, I should have undrafted that long ago.
